US06887896B1
(2E)-3-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enal (Compound A-59)
Following General Procedure H-1, (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-50, 35 mg, 0.12 mmol) and 4-methylmorpholine N-oxide (27 mg, 0.23 nmol) were reacted to give the title compound as a yellow solid after purification by flash chromatography (silica gel, 10% ethyl acetate in hexanes).

reactant | (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | 0.12 mmol, 35 mg | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\CO)/F)/CC | C19H25FO2
reactant | 4-methylmorpholine N-oxide | 0.23 nmol, 27 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
product | (2E)-3-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enal | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\C=O)/F)/CC | C19H23FO2
